US04997595
Example 7: Synthesis of 4-(N,N-diethyl)amino-β-nitro-2-acetyloxystyrene (AcO-DEANST)
A solution was prepared by dissolving 23.5 grams (0.10 mol) of 2-acetyloxy-4-(N,N-diethylamino)benzaldehyde in 100 ml of nitromethane, and added with 3 grams of ammonium acetate. The mixture was heated at 100° C. for 5 hours under agitation. The reaction solution was then cooled on a dry ice-acetone bath until crystallization had been completed. The separated solid (crystal) was filtered off and dried in vacuum. The obtained product was recrystallized from acetonitrile for two times. An amount of 10 grams of red crystals was obtained. The yield was 36%.

reactant | 2-acetyloxy-4-(N,N-diethylamino)benzaldehyde | 0.10 mol, 23.5 grams | C(C)(=O)OC1=C(C=O)C=CC(=C1)N(CC)CC | C13H17NO3
reactant | ammonium acetate | 3 grams | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 100 ml | [N+](=O)([O-])C | CH3NO2
product | 4-(N,N-diethyl)amino-β-nitro-2-acetyloxystyrene | 10 grams, yield was 36% | C(C)N(CC)C1=CC(=C(C=C[N+](=O)[O-])C=C1)OC(C)=O | C14H18N2O4
